US08217064B2
A mixture of ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-3-cyclobutylpropanoate (0.25 g, 0.49 mmol) and lithium hydroxide monohydrate (0.206 g, 4.9 mmol) in a MeOH/THF/Water solvent mixture (10 ml/10 ml/10 ml) was stirred for 3 h at room temperature. After completion of reaction volatiles were removed under reduced pressure. Residue was diluted with water, acidified with 5% HCl solution and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by Flash Column Chromatography to give 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-3-cyclobutylpropanoic acid (0.106 g) as a white solid. 1H-NMR (CDCl3, 400 MHz): 7.72 (d, 2H); 7.65 (d, 2H), 7.41 (s, 1H); 7.18 (s, 1H); 3.98 (q, 2H); 3.51 (t, 1H); 2.15-2.28 (m, 2H); 1.55-2.15 (m, 7H).

reactant | ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-3-cyclobutylpropanoate | 0.49 mmol, 0.25 g | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)CC1CCC1 | C24H23ClF6O3
reactant | lithium hydroxide monohydrate | 4.9 mmol, 0.206 g | O.[OH-].[Li+]
solvent | MeOH THF Water | CO.C1CCOC1.O
product | 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-3-cyclobutylpropanoic acid | 0.106 g | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC1CCC1 | C22H19ClF6O3
